US06391882B1
A mixture of 1-(1H-indol-4-yl)piperazine hydrochloride (1 g) and potassium carbonate (2.9 g) in tetrahydrofaran (25 mL) and water (25 mL) was stirred for 15 min followed by addition of a solution of di-t-butyl dicarbonate (2.3 g) in a 1:1 mixture of tetrahydrofuran and water (20 mL). The mixture was stirred at 50° C. for 16 hours. Standard work-up with ethyl acetate gave 1-t-butoxycarbonyl-4-(1H-indol-4-yl)piperazine as a heavy oil (1.1 g).

reactant | 1-(1H-indol-4-yl)piperazine hydrochloride | 1 g | Cl.N1C=CC2=C(C=CC=C12)N1CCNCC1
reactant | potassium carbonate | 2.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | di-t-butyl dicarbonate | 2.3 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 20 mL | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | 25 mL | O | H2O
product | 1-t-butoxycarbonyl-4-(1H-indol-4-yl)piperazine | 1.1 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C2C=CNC2=CC=C1 | C17H23N3O2
